US05532248
17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-phenyl-2'"-methoxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-phenyl-2'"-hydroxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (27 mg) in methyl iodide (0.5 ml) under nitrogen atmosphere was added silver oxide and the reaction was stirred at room temperature for 48 hours. The reaction was then diluted with ethyl acetate and filtered through a silica gel pad. The filtrate was concentrated and purified by column chromatography on silica gel eluting with 60% hexane:40% ethyl acetate to give the desired compound (12.6 mg).

reactant | 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-phenyl-2'"-hydroxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 27 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC(O)C2=CC=CC=C2)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C57H91NO13Si
reactant | methyl iodide | 0.5 ml | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | silver oxide | [Ag]=O
product | 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2'"-phenyl-2'"-methoxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 12.6 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC(OC)C2=CC=CC=C2)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C58H93NO13Si
